*
*|DSPF 1.5
*
*|DATE "Sun Mar 10 10:32:39 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "TLATX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  TLATX1 D G Q QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 4.02718e-16
*|P (D X 0 0.8920 2.6090)
*|I (MX36/M0#g MX36/M0 g X 0 0.9050 0.8025)
*|I (MX45/M0#g MX45/M0 g X 0 0.9050 3.2375)
*|S (D#7 0.9050 2.6500)
*|S (D#9 0.8500 2.6500)
C1 MX45/M0#g VSS 4.32959e-17
C2 MX36/M0#g VSS 4.32452e-17
C3 D#9 VSS 3.16176e-16
Rg1 MX45/M0#g D#7 169.942413 $W=0.15
Rg2 D#7 MX36/M0#g 574.822449 $W=0.15
Rf3 D#7 D#9 19.141176 $W=0.17
Re4 D D#9 152.016266 $W=0.315
*
*|NET G 4.56374e-16
*|P (G X 0 0.9420 1.4340)
*|I (MX39/M0#g MX39/M0 g X 0 0.4750 0.8025)
*|I (MX44/M0#g MX44/M0 g X 0 0.4750 3.2375)
*|S (G#7 0.4050 1.2900)
*|S (G#8 0.8350 1.2900)
C4 MX44/M0#g VSS 5.63941e-17
C5 MX39/M0#g VSS 4.34429e-17
C6 G#8 VSS 2.81469e-16
C7 G#7 VSS 7.50689e-17
Rg5 MX44/M0#g G#7 601.180237 $W=0.15
Rg6 G#7 MX39/M0#g 132.033569 $W=0.15
Rf7 G#8 G#7 47.376472 $W=0.17
Re8 G#8 G 152.054550 $W=0.33
*
*|NET Q 7.0638e-16
*|P (Q X 0 5.5220 1.9990)
*|I (MX38/M0#d MX38/M0 d X 0 5.6695 0.9700)
*|I (MX43/M0#d MX43/M0 d X 0 5.6695 2.9850)
*|S (Q#2 5.5300 2.9450)
*|S (Q#3 5.5300 1.0050)
C8 MX38/M0#d VSS 1.0367e-16
C9 Q#3 VSS 1.7698e-16
C10 Q#2 VSS 3.26013e-16
C11 Q VSS 9.9717e-17
Rf9 MX43/M0#d Q#2 5.616868 $W=0.83
Rf10 Q#3 MX38/M0#d 8.423712 $W=0.485
Re11 Q Q#3 76.477882 $W=0.26
Re12 Q Q#2 51.121475 $W=0.26
*
*|NET QN 5.69324e-16
*|P (QN X 0 6.4820 2.0740)
*|I (MX33/M0#d MX33/M0 d X 0 6.2505 0.9700)
*|I (MX34/M0#d MX34/M0 d X 0 6.2505 2.9850)
*|S (QN#2 6.3900 2.9450)
*|S (QN#3 6.3900 1.0050)
C12 MX33/M0#d VSS 8.74256e-17
C13 QN#3 VSS 1.395e-16
C14 QN#2 VSS 2.33527e-16
C15 QN VSS 1.08871e-16
Rf13 MX34/M0#d QN#2 5.616868 $W=0.83
Rf14 QN#3 MX33/M0#d 8.423712 $W=0.485
Re15 QN#2 QN 51.058685 $W=0.26
Re16 QN QN#3 76.497475 $W=0.26
*
*|NET 5 1.06984e-15
*|I (MX40/M0#d MX40/M0 d X 0 2.7005 0.8025)
*|I (MX35/M0#g MX35/M0 g X 0 1.3350 0.8025)
*|I (MX47/M0#d MX47/M0 d X 0 2.7005 3.2375)
*|I (MM0#g MM0 g X 0 1.7650 3.2375)
*|S (5 1.7650 3.2375)
*|S (5#7 1.3450 1.2900)
*|S (5#8 1.7550 2.4800)
*|S (5#10 2.7600 2.6500)
*|S (5#13 2.7600 1.2900)
C16 MX47/M0#d VSS 1.01526e-16
C17 MX35/M0#g VSS 4.56171e-17
C18 MX40/M0#d VSS 8.54227e-17
C19 5#13 VSS 2.96423e-16
C20 5#10 VSS 2.11063e-16
C21 5#7 VSS 1.72937e-16
C22 5#8 VSS 1.15715e-16
C23 5 VSS 4.11378e-17
Rg17 MX35/M0#g 5#7 133.085556 $W=0.15
Rg18 5 5#8 219.845551 $W=0.15
Rf19 MX47/M0#d 5#10 59.047058 $W=0.17
Rf20 5#10 5#8 97.822311 $W=0.17
Rf21 MX40/M0#d 5#13 51.894119 $W=0.17
Rf22 5#13 5#7 121.541176 $W=0.17
Re23 5#10 5#13 305.131958 $W=0.14
Rmw24 MM0#g 5 0.001000 $W=1000000
*
*|NET 8 1.71381e-15
*|I (MX37/M0#g MX37/M0 g X 0 2.1950 0.8025)
*|I (MX33/M0#g MX33/M0 g X 0 6.1750 0.9700)
*|I (MX31/M0#d MX31/M0 d X 0 3.6905 0.8025)
*|I (MX30/M0#g MX30/M0 g X 0 4.5650 0.9700)
*|I (MX48/M0#d MX48/M0 d X 0 3.6905 3.2375)
*|I (MX46/M0#g MX46/M0 g X 0 2.1950 3.2375)
*|I (MX34/M0#g MX34/M0 g X 0 6.1750 2.9850)
*|I (MX32/M0#g MX32/M0 g X 0 4.5650 2.9850)
*|S (8 4.5650 2.9850)
*|S (8#19 2.2050 1.6300)
*|S (8#20 4.4750 1.6300)
*|S (8#21 6.2650 1.6300)
*|S (8#23 3.8300 3.0900)
*|S (8#24 3.8300 0.8500)
*|S (8#27 4.4750 1.6300)
*|S (8#28 3.8300 1.6300)
*|S (8#31 3.8300 1.6300)
C24 MX34/M0#g VSS 6.83103e-17
C25 MX46/M0#g VSS 4.69528e-17
C26 MX30/M0#g VSS 6.17397e-17
C27 MX31/M0#d VSS 5.96082e-17
C28 MX33/M0#g VSS 5.35357e-17
C29 MX37/M0#g VSS 3.78495e-17
C30 8#24 VSS 1.06154e-16
C31 8#28 VSS 2.74702e-16
C32 8#23 VSS 2.46874e-16
C33 8#19 VSS 2.43121e-16
C34 8#20 VSS 2.02245e-16
C35 8#21 VSS 2.32149e-16
C36 8 VSS 8.05673e-17
Rg25 MX46/M0#g 8#19 492.978882 $W=0.15
Rg26 8#19 MX37/M0#g 242.338882 $W=0.15
Rg27 8 8#20 411.744843 $W=0.15
Rg28 8#20 MX30/M0#g 188.418182 $W=0.15
Rg29 MX34/M0#g 8#21 411.744843 $W=0.15
Rg30 8#21 MX33/M0#g 188.418182 $W=0.15
Rf31 MX48/M0#d 8#23 25.917646 $W=0.17
Rf32 8#24 MX31/M0#d 18.764706 $W=0.17
Rf33 8#21 8#27 149.776459 $W=0.17
Rf34 8#27 8#28 48.564705 $W=0.17
Rf35 8#28 8#19 137.352936 $W=0.17
Rf36 8#20 8#27 15.000000 $W=0.0289
Re37 8#23 8#31 152.793472 $W=0.23
Re38 8#31 8#24 152.423920 $W=0.23
Re39 8#28 8#31 152.000000 $W=0.0289
Rmw40 MX32/M0#g 8 0.001000 $W=1000000
*
*|NET 10 1.04378e-15
*|I (MX42/M0#g MX42/M0 g X 0 1.7650 0.8025)
*|I (MX40/M0#g MX40/M0 g X 0 2.6250 0.8025)
*|I (MX39/M0#d MX39/M0 d X 0 0.3995 0.8025)
*|I (MX47/M0#g MX47/M0 g X 0 2.6250 3.2375)
*|I (MX44/M0#d MX44/M0 d X 0 0.3995 3.2375)
*|I (MX41/M0#g MX41/M0 g X 0 1.3350 3.2375)
*|S (10 1.3350 3.2375)
*|S (10#13 1.5500 1.9700)
*|S (10#14 2.6600 1.9700)
*|S (10#16 0.2600 3.2350)
*|S (10#17 0.1900 3.0900)
*|S (10#18 0.1900 0.8250)
*|S (10#19 0.1900 0.8500)
*|S (10#21 0.2600 0.8000)
*|S (10#22 0.2600 0.8250)
*|S (10#24 1.5500 1.9700)
*|S (10#25 0.1900 1.9700)
C37 MX47/M0#g VSS 4.35675e-17
C38 MX40/M0#g VSS 3.67166e-17
C39 MX42/M0#g VSS 4.30864e-17
C40 10#19 VSS 1.99787e-16
C41 10#25 VSS 1.91709e-16
C42 10#17 VSS 1.95339e-16
C43 10#13 VSS 1.63555e-16
C44 10#14 VSS 1.22438e-16
C45 10 VSS 4.75842e-17
Rg41 MX42/M0#g 10#13 386.662750 $W=0.15
Rg42 10#13 10 418.796082 $W=0.15
Rg43 MX47/M0#g 10#14 383.725555 $W=0.15
Rg44 10#14 MX40/M0#g 351.592224 $W=0.15
Rf45 10#16 10#17 1.433600 $W=0.625
Rf46 MX44/M0#d 10#16 15.000000 $W=0.625
Rf47 10#18 10#19 1.333333 $W=0.24
Rf48 10#21 10#22 1.333333 $W=0.24
Rf49 10#18 10#22 2.715152 $W=0.33
Rf50 MX39/M0#d 10#21 15.000000 $W=0.24
Rf51 10#14 10#24 98.576469 $W=0.17
Rf52 10#24 10#25 254.399994 $W=0.17
Rf53 10#13 10#24 15.000000 $W=0.0289
Re54 10#17 10#25 152.608688 $W=0.23
Re55 10#25 10#19 152.608688 $W=0.23
Rmw56 MX41/M0#g 10 0.001000 $W=1000000
*
*|NET 12 1.81758e-15
*|I (MX42/M0#d MX42/M0 d X 0 1.6895 0.8025)
*|I (MX35/M0#d MX35/M0 d X 0 1.4105 0.8025)
*|I (MX31/M0#g MX31/M0 g X 0 3.6150 0.8025)
*|I (MX48/M0#g MX48/M0 g X 0 3.6150 3.2375)
*|I (MX41/M0#d MX41/M0 d X 0 1.4105 3.2375)
*|I (MM0#s MM0 s X 0 1.6895 3.2375)
*|S (12#7 3.6150 2.3100)
*|S (12 3.4900 2.3100)
*|S (12#10 1.5500 3.0900)
*|S (12#11 1.5500 0.8500)
*|S (12#14 3.3450 2.3100)
C46 MX48/M0#g VSS 5.82952e-17
C47 MX31/M0#g VSS 4.94568e-17
C48 MX42/M0#d VSS 8.59128e-17
C49 12#11 VSS 4.24043e-16
C50 12#10 VSS 4.46908e-16
C51 12#14 VSS 7.52961e-16
Rg57 MX48/M0#g 12#7 293.052429 $W=0.15
Rg58 12#7 12 7.376061 $W=0.33
Rg59 12#7 MX31/M0#g 479.425751 $W=0.15
Rf60 MX41/M0#d 12#10 25.917646 $W=0.17
Rf61 12#11 MX42/M0#d 18.764706 $W=0.17
Rf62 12 12#14 177.917648 $W=0.17
Re63 12#10 12#14 153.843491 $W=0.23
Re64 12#14 12#11 154.006531 $W=0.23
Rmw65 MX35/M0#d MX42/M0#d 0.001000 $W=1000000
Rmw66 MM0#s MX41/M0#d 0.001000 $W=1000000
*
*|NET 15 9.63357e-16
*|I (MX38/M0#g MX38/M0 g X 0 5.7450 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 4.6405 0.9700)
*|I (MX43/M0#g MX43/M0 g X 0 5.7450 2.9850)
*|I (MX32/M0#d MX32/M0 d X 0 4.6405 2.9850)
*|S (15 5.6550 1.9700)
*|S (15#9 4.7800 2.9450)
*|S (15#10 4.7800 1.0050)
*|S (15#13 4.7800 1.9700)
C52 MX43/M0#g VSS 6.82829e-17
C53 MX30/M0#d VSS 1.00764e-16
C54 MX38/M0#g VSS 5.9303e-17
C55 15#10 VSS 1.48957e-16
C56 15#13 VSS 1.69807e-16
C57 15#9 VSS 2.83791e-16
C58 15 VSS 1.32452e-16
Rg67 MX43/M0#g 15 302.491516 $W=0.15
Rg68 15 MX38/M0#g 297.671509 $W=0.15
Rf69 MX32/M0#d 15#9 5.616868 $W=0.83
Rf70 15#10 MX30/M0#d 8.423712 $W=0.485
Rf71 15 15#13 232.882355 $W=0.17
Re72 15#9 15#13 51.196560 $W=0.23
Re73 15#13 15#10 76.524460 $W=0.23
*
*|NET 22 1.11763e-16
*|I (MX36/M0#d MX36/M0 d X 0 0.9805 0.8025)
*|I (MX35/M0#s MX35/M0 s X 0 1.2595 0.8025)
*|S (22 1.1200 0.8000)
C59 22 VSS 1.11763e-16
Rmw74 MX36/M0#d 22 0.001000 $W=1000000
Rmw75 MX35/M0#s 22 0.001000 $W=1000000
*
*|NET 24 1.09882e-16
*|I (MX42/M0#s MX42/M0 s X 0 1.8405 0.8025)
*|I (MX37/M0#d MX37/M0 d X 0 2.1195 0.8025)
*|S (24 1.9800 0.8000)
C60 24 VSS 1.09882e-16
Rmw76 MX42/M0#s 24 0.001000 $W=1000000
Rmw77 MX37/M0#d 24 0.001000 $W=1000000
*
*|NET 26 1.39654e-16
*|I (MX45/M0#d MX45/M0 d X 0 0.9805 3.2375)
*|I (MX41/M0#s MX41/M0 s X 0 1.2595 3.2375)
*|S (26 1.1200 3.2350)
C61 26 VSS 1.39654e-16
Rmw78 MX45/M0#d 26 0.001000 $W=1000000
Rmw79 MX41/M0#s 26 0.001000 $W=1000000
*
*|NET 30 1.41564e-16
*|I (MX46/M0#d MX46/M0 d X 0 2.1195 3.2375)
*|I (MM0#d MM0 d X 0 1.8405 3.2375)
*|S (30 1.9800 3.2350)
C62 30 VSS 1.41564e-16
Rmw80 MX46/M0#d 30 0.001000 $W=1000000
Rmw81 MM0#d 30 0.001000 $W=1000000
*
*Instance Section
*
MX42/M0	MX42/M0#d	MX42/M0#g	MX42/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX40/M0	MX40/M0#d	MX40/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX39/M0	MX39/M0#d	MX39/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX38/M0	MX38/M0#d	MX38/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX37/M0	MX37/M0#d	MX37/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX36/M0	MX36/M0#d	MX36/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX35/M0	MX35/M0#d	MX35/M0#g	MX35/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M0	MX31/M0#d	MX31/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX48/M0	MX48/M0#d	MX48/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX47/M0	MX47/M0#d	MX47/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX46/M0	MX46/M0#d	MX46/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX45/M0	MX45/M0#d	MX45/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX44/M0	MX44/M0#d	MX44/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX43/M0	MX43/M0#d	MX43/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX41/M0	MX41/M0#d	MX41/M0#g	MX41/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX34/M0	MX34/M0#d	MX34/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M0	MX32/M0#d	MX32/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	MM0#d	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
